US04792563
Stage 1: 2,2-Dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)prop-1-yl p-toluenesulphonate
A mixture of 2,2-dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)propan-1-ol (5 g), p-toluenesulphonyl chloride (3.75 g) and pyridine (10 cm3) was stirred at the ambient temperature (ca. 20° C.) for 24 hours. The mixture was poured into dilute aqueous hydrochloric acid solution and hhe aqueous mixture extracted with ethyl acetate (3×250 cm3). The combined organic layers were washed with brine, then dried over anhydrous magnesium sulphate. Evaporation of the solvent under reduced pressure gave a dark oil (4 g) which was purified by column chromatography on a silica gel support, eluting with petroleum ether (boiling range (60°-80° C.) containing 20% by volume ethyl acetate, to give the title compound (3.9 g) as a yellow oil.

reactant | 2,2-dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)propan-1-ol | 5 g | CC(CO)(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)C | C18H21FO3
reactant | p-toluenesulphonyl chloride | 3.75 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethyl-3-(4-fluoro-3-phenoxybenzyloxy)prop-1-yl p-toluenesulphonate | 4 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(COCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C)C | C25H27FO5S
